US06528525B1
(d) Ethyl 2-(4-isopropylphenoxy)-3-[4-(2-hydroxyethoxy)phenyl]-2-methylpropionate
In a similar manner to that described in Reference example 3(t), a reaction was carried out using ethyl 2-(4-isopropylphenoxy)-2-methyl-3-[4-[2-(tetrahydropyran-2-yloxy)ethoxy]phenyl]propionate (1.06 g), which is the product of Reference example 9(c), and p-toluenesulfonic acid monohydrate (0.60 g) and the reaction mixture was treated to afford the desired compound (0.66 g) as a syrup.

reactant | ethyl 2-(4-isopropylphenoxy)-2-methyl-3-[4-[2-(tetrahydropyran-2-yloxy)ethoxy]phenyl]propionate | 1.06 g | C(C)(C)C1=CC=C(OC(C(=O)OCC)(CC2=CC=C(C=C2)OCCOC2OCCCC2)C)C=C1 | C28H38O6
reactant | p-toluenesulfonic acid monohydrate | 0.60 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | Ethyl 2-(4-isopropylphenoxy)-3-[4-(2-hydroxyethoxy)phenyl]-2-methylpropionate | 0.66 g | C(C)(C)C1=CC=C(OC(C(=O)OCC)(CC2=CC=C(C=C2)OCCO)C)C=C1 | C23H30O5
